US07935815B2
Synthesis of ethyl (E)-3-(6-methoxy-5-nitropyridin-2-yl)acrylate
Palladium acetate (386 mg), 2-(di-tert-butylphosphino)biphenyl (1.03 g), triethylamine (9.59 mL) and ethyl acrylate (18.6 mL) were added to a solution of 6-chloro-2-methoxy-3-nitropyridine (6.49 g) in DMF (100 mL). The reaction solution was stirred in a nitrogen atmosphere at 120° C. for two hours and then left to cool to room temperature. The reaction solution was concentrated under reduced pressure. Water and ethyl acetate were added to the resulting residue, and the organic layer was separated. The resulting organic layer was washed with water and brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) and crystallized from heptane to obtain 2.1 g of the title compound. The property values of the compound are as follows.

reactant | 2-(di-tert-butylphosphino)biphenyl | 1.03 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | triethylamine | 9.59 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | 18.6 mL | C(C=C)(=O)OCC | C5H8O2
reactant | 6-chloro-2-methoxy-3-nitropyridine | 6.49 g | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Palladium acetate | 386 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (E)-3-(6-methoxy-5-nitropyridin-2-yl)acrylate | 2.1 g | COC1=C(C=CC(=N1)/C=C/C(=O)OCC)[N+](=O)[O-] | C11H12N2O5
